US09145407B2
3-Methyl-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
A Reactivial™ containing trimethylboroxine (798 mg, 6.36 mmol), 1,1-bis(diphenylphosphino)ferrocenepalladium(II)dichloride, complex with dichloromethane (26 mg, 0.03 mmol), potassium carbonate (88 mg, 0.64 mmol), N-(2,4-dimethoxybenzyl)-3-iodo-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 38, 240 mg, 0.32 mmol) and 2-methyltetrahydrofuran (5 mL) was sparged with nitrogen and heated to 80° C. for 24 hours. The reaction mixture was cooled and purified directly by silica gel column chromatography (0% to 20% methanol in ethyl acetate gradient elution) followed by reverse phase HPLC to afford the title compound.

reactant | trimethylboroxine | 6.36 mmol, 798 mg | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | dichloromethane | 0.03 mmol, 26 mg | ClCCl | CH2Cl2
reactant | potassium carbonate | 0.64 mmol, 88 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2,4-dimethoxybenzyl)-3-iodo-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.32 mmol, 240 mg | COC1=C(CN(S(=O)(=O)C2=CC(=C(C=C2)OC2=C(C=C(C=C2)C(F)(F)F)C2=CN=NC=C2)I)C2=NC=NS2)C=CC(=C1)OC | C28H21F3IN5O5S2
reactant | 2-methyltetrahydrofuran | 5 mL | CC1OCCC1 | C5H10O
product | 3-Methyl-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | CC=1C=C(C=CC1OC1=C(C=C(C=C1)C(F)(F)F)C1=CN=NC=C1)S(=O)(=O)NC1=NC=NS1 | C20H14F3N5O3S2
